US08648066B2
A mixture phenylmethyl(2R)-2-(4-hydroxy-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)pyrrolidine-1-carboxylate (150 mg, 0.39 mmol) and phosphorous oxychloride (1 mL) in chloroform (3 mL) was stirred at 80° C. for one hour. After cooling to room temperature the reaction mixture was concentrated and the residue was partitioned between saturated sodium bicarbonate (20 mL) and ethyl acetate (20 mL). The mixture was stirred for 15 minutes and pH was maintained above 7 by the addition of solid sodium bicarbonate. The organic layer was separated and washed with water (10 mL) and brine, dried over sodium sulfate, filtered and concentrated to give phenylmethyl(2R)-2-(4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)pyrrolidine-1-carboxylate (117 mg, 74%). MS (EI) for C22H26ClN3O2: 400 (MH+).

reactant | phenylmethyl(2R)-2-(4-hydroxy-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)pyrrolidine-1-carboxylate | 0.39 mmol, 150 mg | OC1=NC(=NC=2CCC(CC12)(C)C)[C@@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C22H27N3O3
reactant | phosphorous oxychloride | 1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | phenylmethyl(2R)-2-(4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-2-yl)pyrrolidine-1-carboxylate | 117 mg, 74% | ClC1=NC(=NC=2CCC(CC12)(C)C)[C@@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C22H26ClN3O2
